US07166617B2
a) 3-(4-Fluorophenylthio)propanol
4-Fluorobenzenethiol (788 mg, 6.15 mmol) and 3-bromopropanol (0.535 ml, 6.16 mmol) was dissolved in tetrahydrofuran (20 ml). The solution was added with 1N aqueous solution of sodium hydroxide (6.2 ml, 6.2 mmol) and heated at 80° C. for 3 hours with stirring. The reaction mixture was diluted with a mixed solvent of ethyl acetate-hexane and washed with diluted aqueous solution of sodium hydroxide, water, and then with saturated brine, and dried over magnesium sulfate. Insoluble solids were moved by filtration and the filtrate was concentrated under reduced pressure. The resulting oil was purified by silica gel column chromatography (ethyl acetate-hexane) to obtain the title compound as colorless oil (592 mg, yield: 52%).

reactant | 4-Fluorobenzenethiol | 6.15 mmol, 788 mg | FC1=CC=C(C=C1)S | C6H5FS
reactant | 3-bromopropanol | 6.16 mmol, 0.535 ml | BrCCCO | C3H7BrO
reactant | sodium hydroxide | 6.2 mmol, 6.2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(4-Fluorophenylthio)propanol | 592 mg, yield: 52% | FC1=CC=C(C=C1)SCCCO | C9H11FOS
